US06407055B1
1104 g of disodium hydrogenphosphate dihydrate are dissolved in 50 kg of water glass having the composition as in Example 1, and the solution is spray-dried in a laboratory spray dryer (spray tower) from Anhydro to give an amorphous sodium silicate having an active substance content of about 83%. 15 kg of the amorphous sodium silicate are heat-treated at 720° C. for 90 min in a muffle furnace (Nabertherm, model W1000/H). The chilled product (about 10 kg) is pulverized using a jaw crusher and a disk mill.

reactant | disodium hydrogenphosphate dihydrate | 1104 g | O.O.P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | water glass | 50 kg | [O-][Si](=O)[O-].[Na+].[Na+]
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
